US07521462B2
4-Bromomethyl-benzo[2,1,3]thiadiazole (0.94 g, 4.12 mmol) is added to a stirred solution of 4-isobutylamino-piperidine-1-carboxylic acid tert-butyl ester (1.01 g, 3.95 mmol), potassium carbonate (0.66 g, 4.76 mmol), sodium iodide (0.18 g, 1.21 mmol), and anhydrous dimethylformamide (15 ml). The reaction is heated to 85° C. under nitrogen for 3 h. The reaction is poured into saturated sodium bicarbonate (100 ml) and extracted with ethyl acetate (100 ml×3). The ethyl acetate is dried over sodium sulfate and then the sodium sulfate is filtered off. The crude product is concentrated on a rotary evaporator and purified by flash chromatography on silica gel eluting with 10% ethyl acetate/hexanes to yield (1.46 g, 91%) of 4-{[(benzo[2,1,3]thiadiazol-4-yl)methyl]-isobutyl-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=405.2 (M+1): 1H NMR (CDCl3): δ=7.86 (1H, d), 7.76-7.74 (1H, m), 7.60-7.56 (1H, m), 4.19 (2H, s), 4.12 (2H, br s), 2.68-2.54 (3H, m), 2.35 (2H, d), 1.83-1.79 (2H, m), 1.71-1.61 (1H, m), 1.54-1.46 (2H, m), 1.44 (9H, s), 0.87 (6H, d).

reactant | 4-Bromomethyl-benzo[2,1,3]thiadiazole | 4.12 mmol, 0.94 g | BrCC1=CC=CC2=NSN=C21 | C7H5BrN2S
reactant | 4-isobutylamino-piperidine-1-carboxylic acid tert-butyl ester | 3.95 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(C)C | C14H28N2O2
reactant | potassium carbonate | 4.76 mmol, 0.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.21 mmol, 0.18 g | [I-].[Na+]
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-{[(benzo[2,1,3]thiadiazol-4-yl)methyl]-isobutyl-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.46 g, 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC(C)C)CC1=CC=CC2=NSN=C21 | C21H32N4O2S
